US07622583B2
To Fe power (2.18 g, 39.0 mmol), AcOH (10 mL) was added drop wise and heated to 80° C. To it, a solution of 2-bromo-5-methyl-3-nitro-pyridine (1.96 g, 9.07 mmol) in AcOH (10 mL) was added slowly. After 30 min, reaction mixture was allowed to cool to room temperature and diluted with EtOAc (25 mL), filtered through a pad of celite. The filter cake was washed with EtOAc (25 mL) and filterate was concentrated. The residual liquid was slowly treated with saturated aqueous NaHCO3 solution (70 mL), followed by small portions of solid NaHCO3 to neutralize the AcOH, extracted with EtOAc (2×50 mL) and the extracts were dried (anhydrous Na2SO4) and concentrated under reduced pressure to get 2-bromo-5-methyl-pyridin-3-ylamine (1.45 g) as a brown solid in 86.3% yield. ESMS m/z (relative intensity): 187 (M+H)+ (100).

reactant | 2-bromo-5-methyl-3-nitro-pyridine | 9.07 mmol, 1.96 g | BrC1=NC=C(C=C1[N+](=O)[O-])C | C6H5BrN2O2
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
catalyst | Fe | [Fe] | Fe
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
product | 2-bromo-5-methyl-pyridin-3-ylamine | 1.45 g, 86.3% yield | BrC1=NC=C(C=C1N)C | C6H7BrN2
